US05824690
Synthesis of 1-[2-[3-(4-fluoro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide morpholine-amide
Prepare by the method of example 88.6 using 2-[3-(4-fluoro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate and 4-phenyl-piperidine-4-carboxylic acid morpholine-amide hydrochloride to give the title compound: Rf =0.57 (silica gel, 10% methanol/dichloromethane).

reactant | 2-[3-(4-fluoro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | FC1=CC=C(C=C1)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCCS(=O)(=O)[O-]
reactant | 4-phenyl-piperidine-4-carboxylic acid morpholine-amide hydrochloride | Cl.N1(CCOCC1)C(=O)N.C1(=CC=CC=C1)C1(CCNCC1)C(=O)O
product | 1-[2-[3-(4-fluoro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide morpholine-amide | N1(CCOCC1)C(=O)N.FC1=CC=C(C=C1)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | InChI=1S/C34H40FN3O5.C5H10N2O2/c1-41-28-21-24(22-29(42-2)30(28)43-3)31(39)38-20-14-33(23-38,25-9-11-27(35)12-10-25)13-17-37-18-15-34(16-19-37,32(36)40)26-7-5-4-6-8-26;6-5(8)7-1-3-9-4-2-7/h4-12,21-22H,13-20,23H2,1-3H3,(H2,36,40);1-4H2,(H2,6,8)
